US04886814
N-[2-(4-Carboethoxyphenyl)ethyl]-2-hydroxy-2-(2-benzoylamino-thiazol-4-yl)ethanamine
9.6 g (0.03 mol) of 2-Benzoylamino-4-bromoacetyl-thiazole are dissolved in 100 ml of methylene chloride and, while stirring at room temperature, added dropwise to a solution of 11.5 g (0.06 mol) of 2-(4-carboethoxyphenyl)ethylamine in 150 ml of methylene chloride. After 1.5 hours, the mixture is cooled to 5° C., diluted with 200 ml of methanol and, for the reduction of the resulting amino-ketone, 3 g of sodium borohydride are added in small portions at 0°-5° C. After 3 hours the solution is evaporated to dryness, ice/water is added, and hydrochloric acid is used to acidify. After 10 minutes the mixture is made alkaline with sodium bicarbonate solution and extracted with methylene chloride. The extract is dried over sodium sulphate, concentrated and purified on a silica gel column using chloroform/methanol=9:1, with the addition of 2% ammonia-saturated ethanol, as eluant. The resulting product is induced to crystallise with petroleum ether.

reactant | 2-Benzoylamino-4-bromoacetyl-thiazole | 0.03 mol, 9.6 g | C(C1=CC=CC=C1)(=O)NC=1SC=C(N1)C(CBr)=O | C12H9BrN2O2S
reactant | 2-(4-carboethoxyphenyl)ethylamine | 0.06 mol, 11.5 g | C(=O)(OCC)C1=CC=C(C=C1)CCN | C11H15NO2
reactant | sodium borohydride | 3 g | [BH4-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 200 ml | CO | CH4O
solvent | amino-ketone | NC(=O)N | CH4N2O
product | N-[2-(4-Carboethoxyphenyl)ethyl]-2-hydroxy-2-(2-benzoylamino-thiazol-4-yl)ethanamine | C(=O)(OCC)C1=CC=C(C=C1)CCNCC(C=1N=C(SC1)NC(C1=CC=CC=C1)=O)O | C23H25N3O4S
